US08207134B2
3) Synthesis of 1-benzenesulfonyl-6-bromo-5-methyl-1H-indole
Under a nitrogen stream, a solution of N-(3-bromo-4-methylphenyl)-N-(2,2-diethoxyethyl)benzenesulfonamide (5.16 g, 11.66 mmol) in toluene (118 mL) and a solution of titanium tetrachloride (1.92 mL, 17.51 mmol) in toluene (118 mL) were simultaneously added dropwise over 25 minutes to toluene (315 mL) which was heated to reflux. After heating to reflux for 1 hour, the reaction mixture was cooled to room temperature and then saturated aqueous sodium hydrogen carbonate was added thereto. The resultant mixture was extracted with ethyl acetate. After drying (anhydrous potassium carbonate), solvent was removed by distillation under reduced pressure. The resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:4)), to thereby obtain the titled compound (2.04 g, 50%).

reactant | N-(3-bromo-4-methylphenyl)-N-(2,2-diethoxyethyl)benzenesulfonamide | 11.66 mmol, 5.16 g | BrC=1C=C(C=CC1C)N(S(=O)(=O)C1=CC=CC=C1)CC(OCC)OCC | C19H24BrNO4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 118 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 118 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetrachloride | 17.51 mmol, 1.92 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | toluene | 315 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzenesulfonyl-6-bromo-5-methyl-1H-indole | 2.04 g, 50% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=C(C=C12)Br)C | C15H12BrNO2S
